US07601722B2
A mixture of 1-(2-bromoethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (212 mg, 0.600 mmol), cis-2,6-dimethylpiperazine (411 mg, 3.60 mmol, 6 equiv.) and ethanol (5 mL) in a sealed reaction vessel was heated at 90° C. for 8 h. After cooling, solvent was removed, and the residue was dissolved in ethyl acetate (15 mL). The resulting solution was washed with an aqueous potassium carbonate solution, water, dried (anhydrous sodium sulfate), and concentrated. The crude oil was pre-adsorbed onto Florisil and purified via Isco flash column chromatography (4-g redisep silica gel column, 1-18% methanol/dichloromethane, with 1% triethylamine as eluent additive) to give 162 mg (70%) of 1-[2-(cis-3,5-dimethylpiperazin-1-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide as a viscous, colorless liquid. This free base was dissolved in ethanol (2 mL), and was treated with an ethereal solution of hydrochloric acid (1 M, 3.0 mL, 3.0 mmol in ethyl ether). To the resulting solution was added ethyl ether until it became cloudy, then cooled to −25° C. in a freezer overnight. The white crystals formed was collected, washed with hexane, and dried in vacuo to yield 176 mg of 1-[2-(cis-3,5-dimethylpiperazin-1-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide dihydrochloride. HRMS: calculated for C20H26N4O2S+H+, 387.1849; found (ESI, [M+H]+), 387.1861.

reactant | 1-(2-bromoethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.600 mmol, 212 mg | BrCCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O | C14H13BrN2O2S
reactant | cis-2,6-dimethylpiperazine | 3.60 mmol, 411 mg, 6 equiv. | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-[2-(cis-3,5-dimethylpiperazin-1-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 162 mg, 70% | C[C@@H]1CN(C[C@@H](N1)C)CCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O | C20H26N4O2S
